US09302988B2
Step 1: 4-Chloro-2-fluoro-1-vinylbenzene
A solution of KOt-Bu (19.5 g, 174 mmol) in dry THF (300 mL) was cooled with an ice/water bath. Portionwise addition of MePPh3Br (62.2 g, 174 mmol) resulted in a suspension, which was stirred for 5 min at 0° C. and for 1 h at 15° C. Subsequently, the temperature was lowered to 0° C. and a solution of 4-chloro-2-fluorobenzaldehyde (25.1 g, 158 mmol) in dry THF (100 mL) was added dropwise. The temperature was raised to room temperature slowly. The reaction mixture was stirred at room temperature for 20 h. Addition of brine (100 mL) resulted in a clear two phase system and a white solid. The combination of layers was decanted from the solid. The layers were separated, the aqueous layer was combined with the solid residue and Et2O (200 mL). The combination of layers was decanted from the solid. The layers were separated, the combination of organic layers was dried (Na2SO4) and concentrated at a controlled vacuum of 100 mbar. The residual oil was combined with pentane (300 mL) and Na2SO4. The suspension was triturated. Filtration and pentane washing provided a filtrate, which was concentrated at a controlled vacuum of 100 mbar to arrive at 26.76 g (97%, 90% purity) of impure title compound as a yellow oil.

reactant | KOt-Bu | 174 mmol, 19.5 g | CC(C)(C)[O-].[K+]
reactant | 4-chloro-2-fluorobenzaldehyde | 158 mmol, 25.1 g | ClC1=CC(=C(C=O)C=C1)F | C7H4ClFO
solvent | THF | 300 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | brine | 100 mL | [Cl-].[Na+].O
product | 4-Chloro-2-fluoro-1-vinylbenzene | ClC1=CC(=C(C=C1)C=C)F | C8H6ClF
